* C:\\Users\\gd48aa\\OneDrive - Aalborg Universitet\\Documents\\PhD CoDE\\automatedDCDC\\virtualTestBench\\Coss\\cossTestBench.net
XU2  ds s s tj tj C2M0080120D
 V1 tj 0 {Tj}
                                                                                                                          VDC ds 0 {Vds}
                                                                                                                          VAC s 0 SINE(0 {Vac} {f})
                                                                                                            .param Tj = 25
                                                                                                                          .tran 0 {tsim} 0 1n
                                                                                                                     .param Vds = 1200
                                                                                                                       .param Vac = 25m
                                                                                                                        .lib C:\Users\gd48aa\OneDrive - Aalborg Universitet\Documents\LTspiceXVII\lib\SiCMOSFET\Wolfspeed\C2M0080120D.lib
  .param f = 1000000
                                                                                                                         .param tsim = {2/f}
                                                                                                                     .backanno
                                                                                                                               .end
                                                                                                                                    